US07511050B2
7-bromo-3-(3-morpholin-4-yl-3-oxopropyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
The mixture of 3-(7-bromo-5-oxo-9-pentyl-6,9-dihydro-5H[1,2,4]triazolo[4,3-a]purin-3-yl]propanoic acid (50 mg, 0.126 mmol), morpholine (21.0 mg, 0.252 mmol), triethylamine (25.5 mg, 0.252 mmol) and BOP (61.5 mg, 0.139 mmol) in CH2Cl2 (10 ml) was stirred at room temperature for 2 hours. After evaporation of solvent, the residue was purified by preparative LC-MS to afford the desired product (37.2 mg, 60%) as white solid. LCMS calculated for C18H25BrN7O3(M+H): 466.1; found: 466.1.

reactant | 3-(7-bromo-5-oxo-9-pentyl-6,9-dihydro-5H[1,2,4]triazolo[4,3-a]purin-3-yl]propanoic acid | 0.126 mmol, 50 mg | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)CCC(=O)O)CCCCC | C14H17BrN6O3
reactant | morpholine | 0.252 mmol, 21.0 mg | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.252 mmol, 25.5 mg | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.139 mmol, 61.5 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-bromo-3-(3-morpholin-4-yl-3-oxopropyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 37.2 mg, 60% | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)CCC(=O)N3CCOCC3)CCCCC | C18H24BrN7O3
